US04170704
A solution of 160 g (1.10 moles) 6-methyl-3-(2-propynyloxy) pyridine and 2000 ml methanol was cooled to 0° C. and 750 g 25% sodium hydroxide solution was slowly added. Iodine (362 g. 1.4 moles) was added portionwise and the resulting suspension stirred at 0°-10° C. for an additional 30 min. The reaction mixture was then poured into 4000 ml water and the solids filtered to give 250 g 3-(3-iodo-2-propynyloxy)-6-methylpyridine. Yield=90% Recrystallization from methanol gave analytically pure material, mp 155°-157° C.

reactant | 6-methyl-3-(2-propynyloxy) pyridine | 1.10 moles, 160 g | CC1=CC=C(C=N1)OCC#C | C9H9NO
reactant | methanol | 2000 ml | CO | CH4O
reactant | sodium hydroxide | 750 g | [OH-].[Na+]
reactant | Iodine | 1.4 moles, 362 g | II | I2
solvent | water | 4000 ml | O | H2O
product | 3-(3-iodo-2-propynyloxy)-6-methylpyridine | 250 g, Yield=90% | IC#CCOC=1C=NC(=CC1)C | C9H8INO
